US06458796B1
5-Benzo[1,3]dioxol-5-ylmethyl-3-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one
Analogously to the procedure of Example 29, the title compound is prepared from 10 mg (0.024 mmol) of 5-amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-[1,2,3]triazole-4-carboxamide and 20 mg (0.107 mmol) of methyl 3,4-methylenedioxyphenylacetate.

reactant | 5-amino-1-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-1H-[1,2,3]triazole-4-carboxamide | 0.024 mmol, 10 mg | NC1=C(N=NN1C(CCCC1=CC=CC=C1)C(C)O)C(=O)N | C15H21N5O2
reactant | methyl 3,4-methylenedioxyphenylacetate | 0.107 mmol, 20 mg | C1OC=2C=C(C=CC2O1)CC(=O)OC | C10H10O4
product | 5-Benzo[1,3]dioxol-5-ylmethyl-3-[1-(1-hydroxy-ethyl)-4-phenyl-butyl]-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one | O1COC2=C1C=CC(=C2)CC=2NC(C1=C(N2)N(N=N1)C(CCCC1=CC=CC=C1)C(C)O)=O | C24H25N5O4
